Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Sulfur-8 / Cortisone / Prozac / Celexa
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ with hx anxiety with panic attacks, acid reflux, and asthma, 
presents with 1 month of substernal chest pain. She describes a 
intermittent sharp severe pain which will come on and last for 
approximately 15 minutes before improving spontaneously to a 
dull ache. "It feels like an anxiety attack but it just doesn't 
go away." She reports that at no time over the past month that 
she been completely without the dull aching sensation. States 
the pain is exacerbated with deep inspiration, as well as by 
emotional stress. It is partly relieved by calming herself down, 
but has also been improved with ibuprofen. It is not reliably 
reproduced with exertion. Comes and goes with both activity and 
at rest. She endorses some accompanying shortness of breath and 
dry cough, as well as a sensation of her "heart racing", 
dizziness, and a feeling of panic when the pain comes on. She 
notes radiation to the top of her left shoulder. She denies a 
personal history of venous thromboembolism however her brother 
does have a history of DVT. She is without known cardiac 
disease. A few days before this pain started, she began a weight 
lifting and exercise routine, including exercises for her arms 
and chest. 

In the ED, initial vs were: T P BP R O2 sat. EKG was negative 
for ischemia. Labs were remarkable for negative troponin x2, 
d-dimer mildly elevated at 528, elevated K in hemolyzed 
specimen, mild leukocytosis at 11.2 (76% neuts). CXR was limited 
by low lung volumes, but showed no acute process. CTA was 
limited by timing of contrast, but was negative for PE to 
segmental level. Patient was given ASA initially, as well as 
home meds including: loperamide, omeprazole, gabapentin, 
buproprion 150mg. she also received 1 dose of ketorolac. Vitals 
on Transfer: T98.0, P 92, BP 113/65, RR 22, O2 95% RA.
  
On the floor, vs were: T97.9 P95 BP114/90 R20 O2 sat93% RA Pain 
___
  
Review of sytems:  
(+) Per HPI. In addition, pt notes aching bones, cold sweats 
upon awakening, headache ___ chronic scalp scratching, blurred 
vision, dry mouth, cold symptoms/resp congestion, dry cough, 
crampy abdominal pain (LMP 48 days ago), chronic diarrhea.  
(-) Denies recent weight loss or gain. Denies nausea, vomiting, 
constipation. No recent change in bowel or bladder habits. No 
dysuria. Ten point review of systems is otherwise negative.

 
Past Medical History:
#Anxiety with panic attacks
#Asthma. Uses albuterol inhaler ___ per day in summertime. Has 
never been hospitalized for asthma exacerbation.
#Acid reflux
#Osteoarthritis
#Seasonal Allergies
#Depression
#Irritable Bowel Syndrome, diarrhea-predominant
#PTSD
#TMJ
#RLS

 
Social History:
___
Family History:
Dad: alcoholism and HTN
Brother: died in ___ from leukemia
Brother: DVT, asthma
NO Fam Hx DM or sudden cardiac death. No hx of premature CAD. 

 
Physical Exam:
ADMISSION EXAM:
Vitals: T97.9 P95 BP114/90 R20 O2 sat93% RA Pain ___ 
General: Morbidly obese, pleasant woman, NAD. Uses motorized 
scooter for transfer from ED to floor. Reclined in bed. 
HEENT: PERRL, oropharynx clear without lesions or exudate, MMM   

Neck: 2+ carotids, no bruits, no LAD, unable to assess JVD due 
to body habitus  
Lungs: Nonlabored breathing. CTAB, no wheezes/rales/rhonchi 
CV: RRR, nl S1/S2, no m/r/g
Chest: Pain reproduced with palpation of sternum, as well as 
palpation of L trapezius. 
Abdomen: Obese, soft, mildly TTP in RLQ.  
Ext: WWP, 2+ ___ pulses, nonpitting edema on ankles 
b/l. 
Skin: Mild erythema on R shin with few scattered scabbed 
lesions. 
Neuro: CN grossly intact. No facial asymmetry or slurred speech. 
Moving all extremities equally.  

DISCHARGE EXAM:
 
Pertinent Results:
ADMISSION LABS:
___ 11:25PM   ___ PTT-30.3 ___
___ 11:25PM   PLT COUNT-383
___ 11:25PM   NEUTS-73.6* LYMPHS-16.7* MONOS-5.7 EOS-3.0 
BASOS-1.1
___ 11:25PM   WBC-11.2* RBC-4.68 HGB-12.6 HCT-39.3 MCV-84 
MCH-26.9* MCHC-32.1 RDW-14.5
___ 11:25PM   HCG-<5
___ 11:25PM   cTropnT-<0.01
___ 11:25PM   GLUCOSE-71 UREA N-14 CREAT-0.8 SODIUM-135 
POTASSIUM-8.7* (hemolyzed) CHLORIDE-106 TOTAL CO2-23 ANION 
GAP-15
___ 12:55AM   D-DIMER-528*
___ 05:20AM   cTropnT-<0.01
___ 05:36AM   K+-3.8

DISCHARGE LABS:

PERTINENT STUDIES:

CXR ___ IMPRESSION: A limited exam, however, there is no 
definite acute 
cardiopulmonary process
 
CTA ___ IMPRESSION: 
1.  Limited by timing of contrast, however, no pulmonary embolus 
to the 
segmental level. 
2.  Nonspecific left axillary 1.1 cm lymph node. 

EKG ___: no ischemic changes
___: unchanged from prior

 
Brief Hospital Course:
Ms. ___ is a ___ F with hx morbid obesity, anxiety, 
asthma, and GER, presenting with 1 month of chest pain which 
began shortly after starting a new exercise routine, ruled out 
for MI in ED. 

ACUTE ISSUES:
  
# Chest Pain: Admitted for nuclear stress testing. Pt with only 
morbid obesity as cardiac risk factor (previous smoking hx many 
years prior). Described midsternal sharp CP that was worsened 
with torso movement, deep inspiration or palpation. Not 
exertional. No associated SOB/n/v/diaphoresis. Coincided with 
initiation of an upper body exercise program 1 month prior. 
Relieved with ibuprofen at home, given toradol in house with 
good effect. 

Furthermore, EKG is benign and CEs were negative x2. PE is very 
unlikely since this has been constant for 1 month, she is not 
hypoxic, nor tachycardic, CTA was limited but negative for PE. 

Stress testing not indicated at this time as etiology very 
likely musculoskeletal.  Discharged with outpt follow-up in 1 
week.

CHRONIC ISSUES:
 
# Anxiety/Depression: cont home sertraline, bupropion 
# Asthma: cont albuterol PRN
# IBS: cont home loperamide PRN
# RLS: cont home gabapentin 
# GERD: cont home omeprazole
# Seasonal allergies: cont home fluticasone nasal spray and 
loratadine

TRANSITIONAL ISSUES:
# f/u with PCP 
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. BuPROPion (Sustained Release) 450 mg PO QAM 
2. Gabapentin 300 mg PO TID 
3. Loratadine *NF* 10 mg Oral daily 
4. Omeprazole 20 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. LOPERamide 2 mg PO TID:PRN diarrhea 
7. ProAir HFA *NF* (albuterol sulfate) 90 mcg/actuation 
Inhalation Q4-6H: PRN wheezing 
8. Sertraline 200 mg PO QHS 

 
Discharge Medications:
1. BuPROPion (Sustained Release) 450 mg PO QAM 
2. Fluticasone Propionate NASAL 1 SPRY NU BID 
3. Gabapentin 300 mg PO TID 
4. LOPERamide 2 mg PO TID:PRN diarrhea 
5. Loratadine *NF* 10 mg Oral daily 
6. Omeprazole 20 mg PO DAILY 
7. Sertraline 200 mg PO QHS 
8. ProAir HFA *NF* (albuterol sulfate) 90 mcg/actuation 
Inhalation Q4-6H: PRN wheezing 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
#Costochondritis
SECONDARY DIAGNOSES:
#Anxiety with Panic Attacks
#Depression
#Gastroesophageal reflux
#Osteoarthritis
#Asthma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to care for you during your hospitalization at 
___.

You were admitted because of chest pain. Lab work and an EKG 
done in the emergency department showed you were not having a 
heart attack. Your chest x-ray was normal. A CT scan of your 
lungs showed you did not have a clot in the blood vessels that 
feed your lungs. Your pain is most likely related to muscular 
strain from the exercises you started in ___. 
 
Followup Instructions:
___